US04762942
2-Hexyl-5-tetradecylphenol
A mixture of 16.99 g of 1-(2-hydroxy-4-tetradecylphenyl)-1-hexanone, 4 g of 5% palladium on carbon catalyst, 100 ml of glacial acetic acid and 50 ml of methanol was hydrogenated in a Parr apparatus for 24 hours. The mixture was filtered, the solvents removed and the residue dissolved in ether, washed with water and dried. This crude material was chromatographed on silica gel, eluting with hexane:ethyl acetate (10:1), giving 15.3 g of the desired product, mp 43°-45° C.

reactant | 1-(2-hydroxy-4-tetradecylphenyl)-1-hexanone | 16.99 g | OC1=C(C=CC(=C1)CCCCCCCCCCCCCC)C(CCCCC)=O | C26H44O2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 4 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 2-Hexyl-5-tetradecylphenol | 15.3 g | C(CCCCC)C1=C(C=C(C=C1)CCCCCCCCCCCCCC)O | C26H46O
